US06433175B1
5-Methoxy-1-(5-iodopentyl)indole-3-carboxaldehyde
A stirred solution of 5-methoxy-1-(5-chloropentyl)indole-3-carboxaldehyde and sodium iodide in acetonitrile under argon is heated under reflux for 18 h, cooled to room temperature and partitioned between ether and water. The combined organic extracts are washed (aqueous sodium metabisulfite solution, water, brine), dried (sodium sulfate) and concentrated in vacuo to give the product.

reactant | 5-methoxy-1-(5-chloropentyl)indole-3-carboxaldehyde | COC=1C=C2C(=CN(C2=CC1)CCCCCCl)C=O | C15H18ClNO2
reactant | sodium iodide | [I-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-Methoxy-1-(5-iodopentyl)indole-3-carboxaldehyde | COC=1C=C2C(=CN(C2=CC1)CCCCCI)C=O | C15H18INO2
